US07741327B2
To a solution of (S)-4-(2-allyloxy-pent-4-enyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid t-butyl ester (1.38 g, 4.24 mmol) in dichloromethane (10 mL) was added benzylidene[1,3-bis(2,4,6-trimethylphenyl)-2-imidazolidinylidene]dichloro-(tricyclohexylphosphine)ruthenium (144 mg, 4% equivalent). The mixture was stirred at room temperature for 4 h. Solvents were evaporated and the residue was purified through flash column chromatography (silica gel, 0-20% ethyl acetate/hexanes) to afford (S)-4-(3,6-dihydro-2H-pyran-2-ylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid t-butyl ester (1.16 g, 92%) as a brown oil: 1H NMR (300 MHz, CDCl3) δ ppm 1.48 (s, 12H), 1.56, 16.0 (2×s, 3H), 1.69 (br. s., 1H), 1.81-2.20 (m, 3H), 3.55 (br. s., 1H), 3.83-4.02 (m, 2H), 4.00-4.28 (m, 3H), 5.61-5.93 (m, 2H).

reactant | (S)-4-(2-allyloxy-pent-4-enyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid t-butyl ester | 4.24 mmol, 1.38 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC(CC=C)OCC=C)(C)C | C18H31NO4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | benzylidene[1,3-bis(2,4,6-trimethylphenyl)-2-imidazolidinylidene]dichloro-(tricyclohexylphosphine)ruthenium | 144 mg | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=CC=CC=C3)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3
product | (S)-4-(3,6-dihydro-2H-pyran-2-ylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid t-butyl ester | 1.16 g, 92% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1OCC=CC1)(C)C | C16H27NO4
